US08044068B2
To a solution of 2 M cyclohexylmagnesium bromide in diethyl ether (3.3 mL) was added a solution of 0.5 M zinc chloride in THF (14 mL) under nitrogen atmosphere, and the mixture was stirred at room temperature for 20 min. N-methylpyrrolidine (10 mL) was added, the mixture was stirred for 5 min, followed by addition of Pd(PtBu3)2 (0.13 g) and 2,4-dichloroquinoline (1.0 g), and the mixture was stirred at room temperature for 4 h. Water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was dried with anhydrous sodium sulfate, the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=6:1) to obtain 2-chloro-4-cyclohexylquinazoline (1.1 g).

reactant | cyclohexylmagnesium bromide | 2 M | C1(CCCCC1)[Mg]Br
reactant | N-methylpyrrolidine | 10 mL | CN1CCCC1 | C5H11N
reactant | 2,4-dichloroquinoline | 1.0 g | ClC1=NC2=CC=CC=C2C(=C1)Cl | C9H5Cl2N
reactant | Water | O | H2O
solvent | diethyl ether | 3.3 mL | C(C)OCC | C4H10O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.5 M | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(PtBu3)2 | 0.13 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-chloro-4-cyclohexylquinazoline | 1.1 g | ClC1=NC2=CC=CC=C2C(=N1)C1CCCCC1 | C14H15ClN2
